US05208241
17-Ethyl-1-hydroxy-12-[2'-(3"-methoxy-4"-oxocyclohexyl)-1'-methylvinyl]-14-triisopropylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a cooled solution (-78° C.) of oxalyl chloride (1.5 ml of 2M solution in CH2Cl2) was added dimethyl sulfoxide (361 mg) dropwise, followed by a solution of 17-ethyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-14-triisopropylsiloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (947 mg) in dry methylene chloride (3 ml). The reaction mixture was stirred for 30 min. at -78° C. and then triethylamine (1 ml) was added. The reaction temperature was raised to room temperature, reaction was poured into water (20 ml), and extracted with ethyl acetate (three times). The combined organic layers were washed (water, sat'd NaHCO3), dried (anhydrous Na2SO4), and filtered. Removal of solvent followed by purification (silica gel chromatography, 40% ethyl acetate: 60% hexane) gave 870 mg of title compound.

reactant | oxalyl chloride | 2M, 1.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 361 mg | CS(=O)C | C2H6OS
reactant | 17-ethyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-14-triisopropylsiloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 947 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O[Si](C(C)C)(C(C)C)C(C)C)=O | C52H89NO12Si
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | 17-Ethyl-1-hydroxy-12-[2'-(3"-methoxy-4"-oxocyclohexyl)-1'-methylvinyl]-14-triisopropylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 870 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)=O)OC)C)C)O[Si](C(C)C)(C(C)C)C(C)C)=O | C52H87NO12Si
